US08981085B2
Cold (about 0 to about 5° C.) fuming nitric acid (10 mL) was added to 5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridine (340 mg, 0.944 mmol). The reaction was stirred at 0° C. for 15 minutes and then ice was added. The resulting solid was filtered and dried to yield 5-ethoxy-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (165 mg, 78% yield) as a solid.

reactant | 5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.944 mmol, 340 mg | C(C)OC=1C(=C2C(=NC1)NC=C2)F | C9H9FN2O
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 5-ethoxy-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 165 mg, 78% yield | C(C)OC=1C(=C2C(=NC1)NC=C2[N+](=O)[O-])F | C9H8FN3O3
